US04665095
3,5-Dichloro-4-amino benzyl alcohol
Methanol (400 ml) was added dropwise over 2 hours to a mixture of methyl-3,5-dichloro-4-aminobenzoate (110 g), NaBH4 (142.5 g) and t-butanol (1.1 L). At the end of the addition, the mixture was refluxed 3 hours, cooled, then H2O (1.2 L) was carefully added. The resulting layers were separated and the organic phase was washed with H2O (2×200 mL), separated, dried (MgSO4), filtered and evaporated to afford the desired product (89 g), mp 110-112° C.

reactant | Methanol | 400 ml | CO | CH4O
reactant | methyl-3,5-dichloro-4-aminobenzoate | 110 g | COC(C1=CC(=C(C(=C1)Cl)N)Cl)=O | C8H7Cl2NO2
reactant | NaBH4 | 142.5 g | [BH4-].[Na+]
reactant | t-butanol | 1.1 L | C(C)(C)(C)O | C4H10O
solvent | H2O | 1.2 L | O | H2O
product | 3,5-Dichloro-4-amino benzyl alcohol | 89 g | ClC=1C=C(CO)C=C(C1N)Cl | C7H7Cl2NO
